US07314888B1
In 13 ml of methanol is dissolved 2.5 g of isobutyl 3,5-diisobutoxybenzoate, to which is then added 2.3 ml of 5 mol/L sodium hydroxide solution. The mixture thus obtained is stirred at 50° C. for 3 hours. Chloroform and water are added to the reaction mixture, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. Thus, 1.8 g of 3,5-diisobutoxybenzoic acid is obtained as a white solid product.

reactant | isobutyl 3,5-diisobutoxybenzoate | 2.5 g | C(C(C)C)OC=1C=C(C(=O)OCC(C)C)C=C(C1)OCC(C)C | C19H30O4
reactant | sodium hydroxide | 5 mol/L, 2.3 ml | [OH-].[Na+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | methanol | 13 ml | CO | CH4O
solvent | water | O | H2O
product | 3,5-diisobutoxybenzoic acid | 1.8 g | C(C(C)C)OC=1C=C(C(=O)O)C=C(C1)OCC(C)C | C15H22O4
